US08957064B2
5-chloro-6-phenyl-2-pyridine-2-yl-[1,2,4]triazolo[1,5-a]pyrimidin-7-yl-isopropylamine
1 g (2.9 mmol) 5,7-dichloro-6-phenyl-2-pyridine-2-yl-[1,2,4]triazolo[1,5-a]pyrimidine described in the former example are given in 10 mL DMF (no complete dissolution). After addition of 0.62 mL (7.3 mmol) isopropylamine the reaction mixture is heated in a microwave oven at 100° C. for 20 minutes. From the clear brown solution the DMF is evaporated, the residue is diluted with brine and water and extracted three times with dichloromethane. The combined organic extracts are dried over Na2SO4 and the solvent is evaporated. The reaction is repeated twice with 1 g starting material resp. 200 mg. The crude residues after the work-up are combined and purified jointly by chromatography (silicagel, eluents: dichloromethane, methanol) yielding 856.1 mg (36.5%) of the desired product.

reactant | 5,7-dichloro-6-phenyl-2-pyridine-2-yl-[1,2,4]triazolo[1,5-a]pyrimidine | 2.9 mmol, 1 g | ClC1=NC=2N(C(=C1C1=CC=CC=C1)Cl)N=C(N2)C2=NC=CC=C2 | C16H9Cl2N5
reactant | isopropylamine | 7.3 mmol, 0.62 mL | C(C)(C)N | C3H9N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-chloro-6-phenyl-2-pyridine-2-yl-[1,2,4]triazolo[1,5-a]pyrimidin-7-yl-isopropylamine | 856.1 mg, 36.5% | ClC1=NC=2N(C(=C1C1=CC=CC=C1)NC(C)C)N=C(N2)C2=NC=CC=C2 | C19H17ClN6
